US04985582
A mixture of 2,2-dimethyl-5-ethyl-5-hydroxymethyl-1,3-dioxane methylsulphonate (6.0 g.) and sodium iodide (9.0 g.) in ethyl methyl ketone was refluxed, with stirring, for forty-eight hours. The solvent was removed in vacuo and the resulting oil was poured into water. The aqueous mixture was extracted with ether. The ethereal extracts were washed with 5% aqueous sodium thiosulphate solution and then water. The ethereal extracts were dried over anhydrous magnesium sulphate and then evaporated in vacuo. The residue was purified by column chromatography on silica, eluting with 1:10 ether: hexane. 2,2-Dimethyl-5-ethyl-5-iodomethyl-1,3-dioxane was obtained as a colourless oil (5.0 g.)

reactant | 2,2-dimethyl-5-ethyl-5-hydroxymethyl-1,3-dioxane methylsulphonate | 6.0 g | CS(=O)(=O)O.CC1(OCC(CO1)(CO)CC)C
reactant | sodium iodide | 9.0 g | [I-].[Na+]
solvent | ethyl methyl ketone | CC(=O)CC | C4H8O
product | 2,2-Dimethyl-5-ethyl-5-iodomethyl-1,3-dioxane | CC1(OCC(CO1)(CI)CC)C | C9H17IO2
